US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(4-morpholin-4-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXX)
(1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (40.0 mg, 0.118 mmol), 4-morpholin-4-ylmethyl-benzaldehyde (26.7 mg, 0.130 mmol) and ammonium acetate (59.4 mg, 0.771 mmol) were heated in ethanol (5 mL) at 70° C. for 18 hours. The reaction mixture was concentrated and the product was purified by reverse phase chromatography (Gilson) to afford, following neutralization with saturated sodium bicarbonate solution and filtration, the title compound 35 mg (57%). mp: 217-219° C., 1H NMR (300 MHz, DMSO-d6): 13.27 (s, 1H), 8.10 (d, J=9 Hz, 2H), 8.03 (s, 1H), 7.76 (s, 1H), 7.48 (d, J=8 Hz, 2H), 7.22 (s, 1H), 7.16 (d, J=8 Hz, 1H), 6.41 (br s, 1H), 6.37 (br s, 1H), 5.23 (t, J=8 Hz, 1H), 3.59 (br s, 4H), 3.53 (s, 2H), 2.89 (s, 1H), 2.78 (s, 1H), 2.39 (br s, 4H), 2.25 (d, J=8 Hz, 1H), 1.90 (s, 1 h), 1.39 (d, J=8 Hz, 1H). MS: 523, 525 (M+H), HPLC: 1.82 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.118 mmol, 40.0 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 4-morpholin-4-ylmethyl-benzaldehyde | 0.130 mmol, 26.7 mg | N1(CCOCC1)CC1=CC=C(C=O)C=C1 | C12H15NO2
reactant | ammonium acetate | 0.771 mmol, 59.4 mg | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(4-morpholin-4-ylmethyl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | BrC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)CN2CCOCC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C25H27BrN6O2
